US06300353B1
A mixture of (2R,3R)-3-(2,5-Difluoro-phenyl)-3-hydroxy-2-methyl-4-[1,2,4]triazol-1-ylthiobutyramide (26.7 g, 85.4 mmol) and a-bromo-4′-cyano-acetophenone (24.0 g, 0.107 mol) in EtOH (500 ml) was refluxed for 1 hr. The reaction mixture was cooled down to r.t. And the solvent was removed under reduced pressure down to 150 ml. The residue was poured into in to cold (0° C.) saturated NaHCO3 aq. (400 ml). The resulting mixture was extracted with EtOAc (300 ml+150 ml×2). The combined organic layer was washed with brine (200 ml), dried over Na2SO4 and concentrated in vacuo. The residue was chromatographed on silica gel (Wako-gel C-300, Hexane:EtOAc=1:2) to give 4-{2-[(1R,2R)-2-(2,5-Difluoro-phenyl)-2-hydroxy-1-methyl-3-[1,2,4]triazol-1-yl-propyl]-thiazol-4-yl }-benzonitrile (32.0 g, 86%).

reactant | (2R,3R)-3-(2,5-Difluoro-phenyl)-3-hydroxy-2-methyl-4-[1,2,4]triazol-1-ylthiobutyramide | 85.4 mmol, 26.7 g | FC1=C(C=C(C=C1)F)[C@]([C@H](C(=S)N)C)(CN1N=CN=C1)O | C13H14F2N4OS
reactant | a-bromo-4′-cyano-acetophenone | 0.107 mol, 24.0 g | BrCC(=O)C1=CC=C(C=C1)C#N | C9H6BrNO
solvent | EtOH | 500 ml | CCO | C2H6O
product | 4-{2-[(1R,2R)-2-(2,5-Difluoro-phenyl)-2-hydroxy-1-methyl-3-[1,2,4]triazol-1-yl-propyl]-thiazol-4-yl }-benzonitrile | 32.0 g, 86% | FC1=C(C=C(C=C1)F)[C@]([C@@H](C)C=1SC=C(N1)C1=CC=C(C#N)C=C1)(CN1N=CN=C1)O | C22H17F2N5OS
